US04141990
To a stirred solution of 4 g (0.014 mole) of 2-bromo-6-methyl-3-phenylbenzofuran in 50 ml of acetic acid and 50 ml of chloroform is added 1.8 g (0.015 mole) of cyclohexene-4-carboxylic acid and a solution of 1.4 g (0.015 mole) of dinitrogen tetroxide in 10 ml of acetic acid. After sitting for about 16 hours the mixture is poured into water. This mixture is extracted with chloroform and the extracts are washed with water and 10% sodium bicarbonate solution and dried. Evaporation of the solvent and recrystallization of the residue from cyclohexane provides yellow crystals of 6-methyl-2-nitro-3-phenylbenzofuran, m.p. 142°-144° C.

reactant | 2-bromo-6-methyl-3-phenylbenzofuran | 0.014 mole, 4 g | BrC=1OC2=C(C1C1=CC=CC=C1)C=CC(=C2)C | C15H11BrO
reactant | cyclohexene-4-carboxylic acid | 0.015 mole, 1.8 g | C1=CCC(CC1)C(=O)O | C7H10O2
reactant | dinitrogen tetroxide | 0.015 mole, 1.4 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-2-nitro-3-phenylbenzofuran | CC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C15H11NO3
